US04783462
4-Chloro-5-[2-(4-methoxyphenyl)ethylamino]-2-ethyl-3(2H)pyridazinone (Compound No. 20)
A mixture comprising 0.5 g of 4,5-dichloro-2-ethyl-3(2H)pyridazinone, 1.18 g of 4-methoxyphenylethylamine, 0.36 g of potassium carbonate, 18 ml of water and 6 ml of 1,4-dioxane, was refluxed under stirring for 8 hours. Then, 1,4-dioxane was distilled off under reduced pressure, and the residue thereby obtained was extracted with ethyl acetate. The extract was washed sequentially with dilute hydrochloric acid and water, and dried over sodium sulfate. Then, solvent was distilled off. The residue was purified by silica gel column chromatography by using benzene-ethyl acetate (1:1, v/v) as the developer, whereby 400 mg of the above identified compound was obtained as colorless crystals having a melting point of from 135° to 135.5° C.

reactant | 4,5-dichloro-2-ethyl-3(2H)pyridazinone | 0.5 g | ClC=1C(N(N=CC1Cl)CC)=O | C6H6Cl2N2O
reactant | 4-methoxyphenylethylamine | 1.18 g | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | potassium carbonate | 0.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 18 ml | O | H2O
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 4-Chloro-5-[2-(4-methoxyphenyl)ethylamino]-2-ethyl-3(2H)pyridazinone | ClC=1C(N(N=CC1NCCC1=CC=C(C=C1)OC)CC)=O | C15H18ClN3O2
